US07858630B2
Step 2: trans-4-[2-(4-Benzo[d]isoxazol-3-yl-piperazin-1-yl)-ethyl]-cyclohexylamine hydrochloride
Trans-{4-[2-(4-Benzo[d]isoxazol-3-yl-piperazin-1-yl)-ethyl]-cyclohexyl}-carbamic acid tert-butyl ester (1.3 g, 3.03 mmol) was dissolved in 3 ml dichloromethane and 4N HCl in dioxane (15.2 ml, 60.7 mmol) was added. The white suspension was stirred for 4 hours at room temperature, diluted with diisopropylether and filtered. The crystals were washed with diisopropylether and dried for 1 hour at 50° C. and <20 mbar, to get the desired salt as a white solid (1.2 g, quant.) [MS: m/e=329.2 (M+H+)].

reactant | Trans-{4-[2-(4-Benzo[d]isoxazol-3-yl-piperazin-1-yl)-ethyl]-cyclohexyl}-carbamic acid tert-butyl ester | 3.03 mmol, 1.3 g | C(C)(C)(C)OC(N[C@@H]1CC[C@H](CC1)CCN1CCN(CC1)C1=NOC2=C1C=CC=C2)=O | C24H36N4O3
reactant | HCl | 4N | Cl | ClH
reactant | dioxane | 60.7 mmol, 15.2 ml | O1CCOCC1 | C4H8O2
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | diisopropylether | C(C)(C)OC(C)C | C6H14O
product | trans-4-[2-(4-Benzo[d]isoxazol-3-yl-piperazin-1-yl)-ethyl]-cyclohexylamine hydrochloride | 1.2 g | Cl.O1N=C(C2=C1C=CC=C2)N2CCN(CC2)CC[C@@H]2CC[C@H](CC2)N | InChI=1S/C19H28N4O.ClH/c20-16-7-5-15(6-8-16)9-10-22-11-13-23(14-12-22)19-17-3-1-2-4-18(17)24-21-19;/h1-4,15-16H,5-14,20H2;1H/t15-,16-;
